US07691898B2
(2) [5-(4-Ethylbenzyl)benzo[b]thiophen-2-phosphonic acid (compound 89)
To a solution of [5-(4-ethylbenzyl)benzo[b]thiophen-2-phosphonic acid diethylester (1.00 g) in dichloromethane (17.0 mL) was added bromotrimethylsilane (1.7 mL) at 0° C., and the reaction mixture was stirred for 19 hr at room temperature. Methanol (4.5 mL) was added to the reaction mixture, and the mixture was stirred for 10 min at room temperature. After evaporation, the residue was crystallized from ethyl acetate-n-hexane to give the title compound (0.72 g) as a colorless crystal.

reactant | 5-(4-ethylbenzyl)benzo[b]thiophen-2-phosphonic acid diethylester | 1.00 g | C(C)OP(OCC)(=O)C1=CC2=C(S1)C=CC(=C2)CC2=CC=C(C=C2)CC | C21H25O3PS
reactant | bromotrimethylsilane | 1.7 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | Methanol | 4.5 mL | CO | CH4O
solvent | dichloromethane | 17.0 mL | ClCCl | CH2Cl2
product | 5-(4-Ethylbenzyl)benzo[b]thiophen-2-phosphonic acid | 0.72 g | C(C)C1=CC=C(CC2=CC3=C(SC(=C3)P(O)(=O)O)C=C2)C=C1 | C17H17O3PS
